US07598384B2
2-(Cyclohexyl-methyl-amino)-6,7,8,9,9a,10-hexahydro-5aH-benzo[g]quinolin-5-one
A mixture of 2-chloro-2,5a,6,7,8,9,9a,10-octahydro-1H-benzo[g]quinolin-5-one (0.29 g, 1.23 mmol) and cyclohexyl(methyl)amine (1.39 g, 12.3 mmol) was stirred at 110° C. for 9.5 h (TLC control; hexane-EtOAc, 2:1). Then the mixture was separated by column chromatography on silica gel to give the title compound (0.2 g, 52%) as a colorless oil.

reactant | 2-chloro-2,5a,6,7,8,9,9a,10-octahydro-1H-benzo[g]quinolin-5-one | 1.23 mmol, 0.29 g | ClC1NC=2CC3C(C(C2C=C1)=O)CCCC3 | C13H16ClNO
reactant | cyclohexyl(methyl)amine | 12.3 mmol, 1.39 g | C1(CCCCC1)NC | C7H15N
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 2-(Cyclohexyl-methyl-amino)-6,7,8,9,9a,10-hexahydro-5aH-benzo[g]quinolin-5-one | 0.2 g, 52% | C1(CCCCC1)N(C1=NC=2CC3C(C(C2C=C1)=O)CCCC3)C | C20H28N2O
